US09193721B2
Step A: Methyl 6-[(acetylamino)methyl]-5-chloro-2-(3-fluorophenyl)nicotinate
Methyl 6-(aminomethyl)-5-chloro-2-(3-fluorophenyl)nicotinate (0.35 g, 1,2 mmol) was stirred in N,N-dimethylformamide (5 mL) with N,N-diisopropylethylamine (0.41 mL, 2.4 mmol) and acetic anhydride (0.17 mL, 1.8 mmol) was added. The mixture was stirred for 30 minutes at room temperature. Evaporation gave the crude material which was contaminated with the corresponding dechlorinated byproduct (0.4 g, 100%). LCMS calculated for C16H15ClFN2O3 (M+H)+: m/z=337.1. found 336.9.

reactant | Methyl 6-(aminomethyl)-5-chloro-2-(3-fluorophenyl)nicotinate | 1,2 mmol, 0.35 g | NCC1=NC(=C(C(=O)OC)C=C1Cl)C1=CC(=CC=C1)F | C14H12ClFN2O2
reactant | N,N-diisopropylethylamine | 2.4 mmol, 0.41 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic anhydride | 1.8 mmol, 0.17 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 6-[(acetylamino)methyl]-5-chloro-2-(3-fluorophenyl)nicotinate | C(C)(=O)NCC1=NC(=C(C(=O)OC)C=C1Cl)C1=CC(=CC=C1)F | C16H14ClFN2O3
